US07842324B2
2-(3′-(methoxymethyl)biphenyl-4-yl)-2-methylpropanoic acid:
Prepared in a similar manner to Example 1 starting from 3-(methoxymethyl)phenylboronic acid and 2-(4-bromophenyl)-2-methylpropanoic acid. Yield: 82%. 1H NMR (400 MHz, DMSO): δ 1.48 (s, 6H), 4.46 (s, 2H), 7.27-7.29 (d, 1H), 7.40-7.44 (m, 3H), 7.54-7.56 (d, 2H), 7.60-7.62 (d, 2H), 12.40 (s, 1H).

reactant | 3-(methoxymethyl)phenylboronic acid | COCC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | 2-(4-bromophenyl)-2-methylpropanoic acid | BrC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11BrO2
product | 2-(3′-(methoxymethyl)biphenyl-4-yl)-2-methylpropanoic acid | Yield: 82% | COCC=1C=C(C=CC1)C1=CC=C(C=C1)C(C(=O)O)(C)C | C18H20O3
